US08486979B2
5-(3-(1H-pyrazol-3-yl)phenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-(1H-pyrazol-3-yl)benzoic acid (Maybridge). 1H NMR (300 MHz, DMSO-d6) δ 6.91 (d, J=2.4 Hz, 1 H), 7.62-7.69 (m, 1 H), 7.72 (t, J=7.8 Hz, 1 H), 7.79-7.92 (m, 1 H), 7.82-7.88 (m, 1H), 8.10-8.20 (m, 3 H), 8.49 (dt, J=8.2, 1.9, 1.7 Hz, 1 H), 8.64 (s, 1 H), 8.83 (dd, J=4.7, 1.7 Hz, 1 H), 9.29 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 290 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-(1H-pyrazol-3-yl)benzoic acid | N1N=C(C=C1)C=1C=C(C(=O)O)C=CC1 | C10H8N2O2
reactant | NH3 | N | H3N
product | 5-(3-(1H-pyrazol-3-yl)phenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1N=C(C=C1)C=1C=C(C=CC1)C1=NC(=NO1)C=1C=NC=CC1 | C16H11N5O
